US06518285B2
4-Pyridin-3-yl-butyryl Chloride:
To a solution of 247 mg (1.49 mmol) of 4-pyridin-3-yl-butyric acid in 10 mL CH2Cl2 was added one drop DMF and 2.3 mL (4.56 mmol) oxalyl chloride and the mixture stirred at rt for 4 h. The volatiles were evaporated under reduced pressure and the material used crude in the following procedure.

reactant | 4-pyridin-3-yl-butyric acid | 1.49 mmol, 247 mg | N1=CC(=CC=C1)CCCC(=O)O | C9H11NO2
reactant | oxalyl chloride | 4.56 mmol, 2.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | 4-Pyridin-3-yl-butyryl Chloride | N1=CC(=CC=C1)CCCC(=O)Cl | C9H10ClNO
